US08664200B2
Step 1: (2S)—N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]-ethyl}-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanamide
Into a 20 mL vial was added (2S)-2-amino-N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}-3-phenylpropanamide.HCl (46.3 mg, 0.109 mmol) (prepared as described in Example, THF (1.47 mL), N,N diisopropylethylamine (47.5 μL), and 6-phenoxy-3-pyridine sulfonyl chloride (32.4 mg.) The mixture was stirred at room temperature overnight. The product was purified by preparative TLC on silica plates using 50% ethyl acetate in hexanes to give 35 mg desired product as a white solid.

reactant | (2S)-2-amino-N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}-3-phenylpropanamide | N[C@H](C(=O)N[C@@H](CC1CCC1)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)CC1=CC=CC=C1 | C25H37BN2O3
reactant | HCl | 0.109 mmol, 46.3 mg | Cl | ClH
reactant | N,N diisopropylethylamine | 47.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-phenoxy-3-pyridine sulfonyl chloride | 32.4 mg | O(C1=CC=CC=C1)C1=CC=C(C=N1)S(=O)(=O)Cl | C11H8ClNO3S
solvent | THF | 1.47 mL | C1CCOC1 | C4H8O
product | (2S)—N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]-ethyl}-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanamide | 35 mg | C1(CCC1)C[C@@H](B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)NC([C@H](CC1=CC=CC=C1)NS(=O)(=O)C=1C=NC(=CC1)OC1=CC=CC=C1)=O | C36H44BN3O6S
